US04126689
From 3.9 parts of N-(1-cyclopentyl-4-piperidinyl)-3-methyl-N-(3-pyridinyl)benzeneacetamide (E)-2-butenedioate, the free base is liberated in the conventional manner with a diluted sodium hydroxide solution. After extraction with 2,2'-oxybispropane, the latter is washed with water, dried, filtered and evaporated. The residue is converted into the ethanedioate salt in ethanol. The salt is filtered off and crystallized from a mixture of ethanol and 2,2'-oxybispropane, yielding 3 parts of N-(1-cyclopentyl-4-piperidinyl)-3-methyl-N-(3-pyridinyl)benzeneacetamide ethanedioate; mp. 192.6° C.

reactant | N-(1-cyclopentyl-4-piperidinyl)-3-methyl-N-(3-pyridinyl)benzeneacetamide (E)-2-butenedioate | C(\C=C\C(=O)O)(=O)O.C1(CCCC1)N1CCC(CC1)N(C(CC1=CC(=CC=C1)C)=O)C=1C=NC=CC1
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(1-cyclopentyl-4-piperidinyl)-3-methyl-N-(3-pyridinyl)benzeneacetamide ethanedioate | C(C(=O)O)(=O)O.C1(CCCC1)N1CCC(CC1)N(C(CC1=CC(=CC=C1)C)=O)C=1C=NC=CC1 | InChI=1S/C24H31N3O.C2H2O4/c1-19-6-4-7-20(16-19)17-24(28)27(23-10-5-13-25-18-23)22-11-14-26(15-12-22)21-8-2-3-9-21;3-1(4)2(5)6/h4-7,10,13,16,18,21-22H,2-3,8-9,11-12,14-15,17H2,1H3;(H,3,4)(H,5,6)
